US03987051
5-Benzoyl-4-ethoxy-1H-pyrazolo[3,4-b]pyridine
87 g. of 5-benzoyl-4-ethoxy-1-(2-furanyl)methyl-1H-pyrazolo[3,4-b]pyridine (0.25 mol.) are dissolved in 300 ml. of conc. sulfuric acid within 15 to 20 minutes with vigorous stirring. The temperature rises to 40°-45°. Stirring is continued for 1 hour. The dark colored mixture is then added to 3700 ml. of cold water. Stirring is continued for 2 hours and the dark by-products are filtered off. The filtrate is made alkaline with 25% aqueous ammonia. The white precipitate of 5-benzoyl-4-ethoxy-1H-pyrazolo[3,4-b]pyridine is filtered off, yield 44.8 g. (66%), m.p. 202°-203° (butanol).

reactant | 5-benzoyl-4-ethoxy-1-(2-furanyl)methyl-1H-pyrazolo[3,4-b]pyridine | 0.25 mol | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)N(N=C2)CC=2OC=CC2)OCC | C20H17N3O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-Benzoyl-4-ethoxy-1H-pyrazolo[3,4-b]pyridine | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)NN=C2)OCC | C15H13N3O2
